US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-3-trifluoromethylaniline
3-Trifluoromethylaniline (0.483 g, 3.000 mmol), triethylamine (0.304 g, 3.000 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.507 g, 3.000 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.374 g, 1.000 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from ether to obtain the titled compound (0.235 g, 0.454 mmol, 45%).

reactant | 3-Trifluoromethylaniline | 3.000 mmol, 0.483 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | triethylamine | 3.000 mmol, 0.304 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 3.000 mmol, 0.507 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 1.000 mmol, 0.374 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-3-trifluoromethylaniline | 0.454 mmol, 0.235 g, 45% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C1)OC(C)=O)C)=O | C26H22F3NO7
